US07211572B2
To a solution of 3-benzyloxy-5-bromo-4-oxo-4H-pyran-2-carboxylic acid 3-chlorobenzylamide (1.50 g) in tetrahydrofuran (10 ml)-ethanol (10 ml) was added aminoacetaldehyde dimethyl acetal (0.73 ml) and the mixture was stirred at 60° C. for 1 hr. The solvent was evaporated and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:3–1:2) to give 3-benzyloxy-5-bromo-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide (1.35 g).

reactant | 3-benzyloxy-5-bromo-4-oxo-4H-pyran-2-carboxylic acid 3-chlorobenzylamide | 1.50 g | ClC=1C=C(CNC(=O)C=2OC=C(C(C2OCC2=CC=CC=C2)=O)Br)C=CC1 | C20H15BrClNO4
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | aminoacetaldehyde dimethyl acetal | 0.73 ml | COC(CN)OC | C4H11NO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-benzyloxy-5-bromo-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide | 1.35 g | ClC=1C=C(CNC(=O)C=2N(C=C(C(C2OCC2=CC=CC=C2)=O)Br)CC(OC)OC)C=CC1 | C24H24BrClN2O5
